US04349655
(b) N-2-hydroxypropyl-5-methyl-oxazolidine (HIPOX)
133 g of diisopropanol amine and 33 g of paraformaldehyde are reacted as described under (a).

reactant | diisopropanol amine | 133 g | CC(CNCC(C)O)O | C6H15NO2
reactant | paraformaldehyde | 33 g | C=O | CH2O
product | N-2-hydroxypropyl-5-methyl-oxazolidine | OC(CN1COC(C1)C)C | C7H15NO2
